US08076329B2
Following the procedure described in example 1§E, but starting from 4-hydroxystilbene (2 g), potassium carbonate (7.04 g) and 1-bromo-3-chloropropane (5 mL) in N,N-dimethylformamide (10 mL) affords 2.06 g of 4-(3-chloropropoxy)stilbene as a white solid.

reactant | 4-hydroxystilbene | 2 g | OC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C14H12O
reactant | potassium carbonate | 7.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 5 mL | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloropropoxy)stilbene | 2.06 g | ClCCCOC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C17H17ClO
